US08426430B2
7-Fluoroquinazolin-4-ol (1 g, 6.0 mmol) was dissolved in concentrated H2SO4 (3 mL) at 0° C. Concentrated HNO3 (3 mL) was added dropwise with stirring in 15 min. The mixture was heated to 100° C. for 3 h, and poured into ice-water with stirring after cooled to room temperature. The precipitate was filtered out and recrystallized with HOAc to give 0.60 g of 7-fluoro-6-nitroquinazolin-4-ol (38%).

reactant | 7-Fluoroquinazolin-4-ol | 6.0 mmol, 1 g | FC1=CC=C2C(=NC=NC2=C1)O | C8H5FN2O
reactant | HNO3 | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
product | 7-fluoro-6-nitroquinazolin-4-ol | 0.60 g, 38% | FC1=C(C=C2C(=NC=NC2=C1)O)[N+](=O)[O-] | C8H4FN3O3
